US07956070B2
Step 1: 2-Chloro-4-hydroxy-3-methylbenzonitrile
A stirred solution of 4-bromo-3-chloro-2-methylphenol (0.427 g), zinc cyanide (0.271 g), and tetrakis[triphenylphosphine]palladium (0.056 g) in N-methyl-2-pyrrolidinone (5 mL) was heated under microwave irradiation (150 W) at 130° C. for 35 min. The reaction mixture was filtered through anhydrous magnesium sulfate, partitioned between 1:2 ethyl acetate/diethyl ether (15 mL) and water (15 mL). The aqueous phase was re-extracted with 1:2 ethyl acetate/diethyl ether (2×15 mL). The organics were combined, washed with water (2×20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The compound was purified by column chromatography using 1:9 ethyl acetate/iso-hexane as eluent, to give the desired product as a peach coloured solid (174 mg, 54%).

reactant | 4-bromo-3-chloro-2-methylphenol | 0.427 g | BrC1=C(C(=C(C=C1)O)C)Cl | C7H6BrClO
reactant | N-methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 0.271 g | [C-]#N.[Zn+2].[C-]#N
product | 2-Chloro-4-hydroxy-3-methylbenzonitrile | 174 mg, 54% | ClC1=C(C#N)C=CC(=C1C)O | C8H6ClNO
